2122-12-25 06:44:00 Physician Resident Progress Note
TITLE:
   24 Hour Events:
   - lasix gtt @ 10mg/hour
   - milrinone gtt @ 0.5mcg/kg/min
   - net -2L per 24 hours
   Allergies:
   Amiodarone
   Hyperthyroidism
   Last dose of Antibiotics:
   Infusions:
   Milrinone - 0.1 mcg/Kg/min
   Furosemide (Lasix) - 6 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-12-25**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-12-25**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37
C (98.6
   HR: 80 (78 - 103) bpm
   BP: 86/41(51) {71/27(38) - 106/53(78)} mmHg
   RR: 28 (13 - 31) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 91.3 kg (admission): 93.8 kg
             Total In:
                                                                  2,054 mL
                                                                    113 mL
   PO:
                                                                  1,410 mL
                                                                     30 mL
   TF:
   IVF:
                                                                    644 mL
                                                                     83 mL
   Blood products:
   Total out:
                                                                  4,240 mL
                                                                    970 mL
   Urine:
                                                                  4,240 mL
                                                                    970 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,186 mL
                                                                   -857 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///26/
   Physical Examination
   Gen: Lying flat, comfortable, NAD. Oriented x3. Mood, affect
   appropriate. Portugese speaking.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   Neck: supple. JVP 6mm
   CV: Irregularly irregular, I/VI HSM LLSB,
   Chest: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   Abd: Soft, NTND, obese. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   Ext: Trace LE edema b/l, warm.
   Skin: b/l venous stasis changes
   Labs / Radiology
   165 K/uL
   12.3 g/dL
   87 mg/dL
   1.6 mg/dL
   26 mEq/L
   4.5 mEq/L
   40 mg/dL
   97 mEq/L
   135 mEq/L
   35.4 %
   11.6 K/uL
         [image002.jpg]
                             [**2122-12-23**]  06:06 AM
                             [**2122-12-23**]  04:59 PM
                             [**2122-12-24**]  03:56 AM
                             [**2122-12-24**]  02:48 PM
                             [**2122-12-25**]  04:07 AM
   WBC
   9.5
   9.8
   11.6
   Hct
   31.3
   32.4
   31.5
   35.4
   Plt
   148
   145
   165
   Cr
   1.5
   1.6
   1.5
   1.6
   1.6
   Glucose
   97
   130
   101
   87
   Other labs: PT / PTT / INR:22.6/38.9/2.2, Ca++:8.8 mg/dL, Mg++:2.5
   mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
 HEART FAILURE (CHF), SYSTOLIC, ACUTE ON CHRONIC
   Patient is a 32M with idiopathic dilated CM (EF 20%), afib, CVA, SDH,
   and hypothyroidism who is admitted for diuresis and milrinone.
   .
   # PUMP: CHF/Dilated Cardiomyopathy: TTE [**8-3**] showed EF 20%, diagnosed
   after presenting with Class III CHF symptoms in [**9-27**], thought to be
   viral etiology, s/p AICD. His dry weight is 100 kg, currently below dry
   weight at 93kg. Had recent admission at OSH where he presented with LE
   swelling and received IV lasix.  Currently does not appear volume
   overloaded, JVP flat, lungs clear and only trace edema. Plan as
   outlined by Dr. [**First Name (STitle) **]:
   - continue metoprolol 200mg tid to suppress arrythmogenic effects of
   milrinone
   - continue milrinone infusion at .5 mcg/kg/min, can titrate up to
   0.75mcg/kg/min.
   - Start to wean off milrinone late tonight
   - Maintain SBP>80, MAP>40
   - continue digoxin
   - continue lasix gtt, titrate to net negative ~1L daily, inc. to 10
   today
   - continue fluid restriction
   - continue low-dose ACEI
   .
   # RHYTHM: Chronic atrial fibrillation, on Coumadin, diagnosed in the
   setting of hyperthyroidism. Coumadin held [**Date range (1) 2788**] s/p SDH.
   Initially held this hospitalization for INR 3.5.  INR today 2.9
   - restart lower dose coumadin
   - uptitrate metoprolol as above
   .
   # h/o Ventricular Tachycardia: first noted in [**9-27**], had non sustained
   30 second run seen on Holter [**8-29**], s/p syncope from VT in [**9-1**].
   - monitor on telemetry
   - ICD in place
   - maintain K >4, Mg >2
   .
   # NEURO: s/p CVA as well as SDH. On Keppra for sz prophylaxis.
   Admitted to OSH in [**9-2**] after seizure at home and he was started on
   Keppra. Has been seizure free.
   - Cont Keppra 250mg [**Hospital1 **]
   .
   # Thyroid dysfunction: Originally had hyperthyroidism, secondary to
   Amiodarone (d/ced [**3-1**]), s/p prednisone and methimazole-->
   hypothyroidism
   -continue synthroid
   .
   # CRI: Baseline Cr 1.7-1.8.  Likely related to poor forward flow. Cr
   down to below baseline today at 1.5 with diuresis.
   - Cont to follow with diuresis
   - renally dose meds
   .
   # Anemia: Baseline Hct in low 30s.  Iron studies c/w chronic disease.
   Currently at baseline, no signs of bleeding
   -Cont. to follow
   -GAS
   .
   # Osteoporosis: continue Ca, Vitamin D
   .
   # FEN: low Na diet, follow and replete lytes, fluid restrict 1.5L
   .
   # Access: PIV x2, ? PICC for home milrinone
   .
   # PPx: therapeutic on coumadin
   .
   # Code: FULL
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2122-12-24**] 06:18 AM
   18 Gauge - [**2122-12-24**] 04:26 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   `